US09371336B2
To a mixture of t-butyl 4-(6-hydroxypyridin-2-yl)piperazine-1-carboxylate (8.4 g, 30 mmol) and MgCl2 (5.8 g, 60 mmol) in CH3CN (100 mL) was added triethylamine (25.2 mL, 150 mmol). After the mixture was stirred for 10 minutes at ambient temperature, paraformaldehyde (9.0 g, 300 mmol) was added to the mixture. The mixture was stirred for 18 hours at 60° C., and then cooled to room temperature. The mixture was then diluted with EtOAc (500 mL) and washed with 1 M Rochelle salt solution (200 mL) and saturated NH4Cl solution (200 mL). The organic layer was concentrated under reduced pressure and purified by column chromatography (30%-50% EtOAc/hexanes) to yield 3.6 g (39%) of t-butyl 4-(5-formyl-6-hydroxypyridin-2-yl)piperazine-1-carboxylate as white solid. MS m/z 308.2 [M+H]+; 1H NMR (500 MHz, CDCl3) δ (ppm) 12.35 (1H, br), 9.55 (1H, s), 7.66 (1H, d, J=8.51 Hz), 6.26 (1H, d, J=8.83 Hz), 3.79 (4H, m), 3.56 (4H, m), 1.51 (9H, s).

reactant | t-butyl 4-(6-hydroxypyridin-2-yl)piperazine-1-carboxylate | 30 mmol, 8.4 g | OC1=CC=CC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H21N3O3
reactant | MgCl2 | 60 mmol, 5.8 g | [Mg+2].[Cl-].[Cl-]
reactant | triethylamine | 150 mmol, 25.2 mL | C(C)N(CC)CC | C6H15N
reactant | paraformaldehyde | 300 mmol, 9.0 g | C=O | CH2O
solvent | CH3CN | 100 mL | CC#N | C2H3N
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | t-butyl 4-(5-formyl-6-hydroxypyridin-2-yl)piperazine-1-carboxylate | 3.6 g, 39% | C(=O)C=1C=CC(=NC1O)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N3O4
